US04996216
At room temperature (about 20° C.), 11.1 g of 4-(6-chloro-2-pyridinyloxy)phenol in 100 ml of anhydrous dimethylformamide is dripped into 1.3 g of 100% strength sodium hydride in 40 ml of anhydrous dimethylformamide. To complete the exothermic reaction (evolution of hydrogen) the mixture is stirred for 30 minutes at 50° C. At room temperature, 7.9 g of 5-chloromethyl-3-cyclopropylisoxazole in 30 ml of anhydrous dimethylformamide is then dripped in. The mixture is stirred for 2 hours at 60° C. and overnight at room temperature. It is then poured into 200 ml of ice water and the solution is extracted with methyl tert-butyl ether. The organic phase is then washed with sodium hydroxide solution, water and saturated sodium chloride solution. After drying over sodium sulfate, the solvent is evaporated under reduced pressure. The crude product is recrystallized from methanol. There is obtained 13.5 g of 5-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]3-cyclopropylisoxazole of m.p.: 128°-130° C.

reactant | 4-(6-chloro-2-pyridinyloxy)phenol | 11.1 g | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)O | C11H8ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-chloromethyl-3-cyclopropylisoxazole | 7.9 g | ClCC1=CC(=NO1)C1CC1 | C7H8ClNO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]3-cyclopropylisoxazole | 13.5 g | ClC1=CC=CC(=N1)OC1=CC=C(OCC2=CC(=NO2)C2CC2)C=C1 | C18H15ClN2O3
